US05554624
2-Ethoxycarbonyl-3-(4-methylphenyl)-3-phenyl-2-propenonitrile
A mixture of 10 g (51 mmol) of 4-methylbenzophenone, 4.9 mL (46 mL (46 mmol) of ethyl cyanoacetate, 0.72 g (9.3 mmol) of ammonium acetate, 2.2 mL (37 mmol) of acetic acid and 8 mL of benzene was heated at reflux for 18 h using a Dean-Stark water separator. Then, 1.1 mL of acetic acid and 0.35 g of ammonium acetate was added and the mixture was heated for 24 h more. The solvent was removed and the residue was dissolved in chloroform and washed with water. The organic phase was dried over magnesium sulfate and the solvent was removed to yield a crude product. This was chromatographed on silica gel (hexane-ethyl acetate mixtures of increasing polarity) to afford 10 g of the title compound of the example as a colourless oil (yield: 67%).

reactant | 4-methylbenzophenone | 51 mmol, 10 g | CC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H12O
reactant | ethyl cyanoacetate | 46 mmol, 46 mL | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | 9.3 mmol, 0.72 g | C(C)(=O)[O-].[NH4+]
reactant | ammonium acetate | 0.35 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 1.1 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | benzene | 8 mL | C1=CC=CC=C1 | C6H6
solvent | acetic acid | 37 mmol, 2.2 mL | C(C)(=O)O | C2H4O2
product | 2-Ethoxycarbonyl-3-(4-methylphenyl)-3-phenyl-2-propenonitrile | 10 g | C(C)OC(=O)C(C#N)=C(C1=CC=CC=C1)C1=CC=C(C=C1)C | C19H17NO2
